US06992087B2
Preparation of cis-(+/−)-N-[4-ethoxytetrahydrofuran-3-yl]-3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting of cis-(+/−)-4-{[3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-yl]amino}tetrahydrofuran-3-ol and making non-critical variations provided the title compound as a light yellow solid. IR (liq.) 2972, 2935, 2874, 1609, 1564, 1481, 1395, 1294, 1243, 1204, 1160, 1123, 1077, 1069, 1058 cm−1; OAMS supporting ions at: ESI+ 386.2; MS (EI) m/z 385 (M+); HRMS (FAB) calcd for C22H31N3O3+H1 386.2443, found 386.2457. Anal. Calcd for C22H31N3O3: C, 68.54; H, 8.11; N, 10.90. Found: C, 68.22; H, 8.05; N, 10.76.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | cis-(+/−)-4-{[3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-yl]amino}tetrahydrofuran-3-ol | C(C)C=1C(=NC(=C(N1)C1=C(C=C(C=C1)OC)C)CC)N[C@@H]1[C@@H](COC1)O | C20H27N3O3
product | cis-(+/−)-N-[4-ethoxytetrahydrofuran-3-yl]-3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-amine | C(C)O[C@@H]1[C@@H](COC1)NC1=NC(=C(N=C1CC)C1=C(C=C(C=C1)OC)C)CC | C22H31N3O3
